* c:\users\dell\esim-workspace\8_3_priorityencoder\8_3_priorityencoder.cir

* u9  net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ prioenc
* u10  i0 i1 i2 i3 i4 i5 i6 i7 net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ adc_bridge_8
* u11  net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ q2 q1 q0 dac_bridge_3
r2  q1 gnd 1k
r3  q0 gnd 1k
r1  q2 gnd 1k
v1  i0 gnd pulse(0 5 0.1m 0.1m 0.1m 8 17)
v2  i1 gnd pulse(0 5 0.1m 0.1m 0.1m 6 28)
v3  i2 gnd pulse(0 5 0.1m 0.1m 0.1m 12 24)
v4  i3 gnd pulse(0 5 0.1m 0.1m 0.1m 9 26)
v5  i4 gnd pulse(0 5 0.1m 0.1m 0.1m 9 26)
v6  i5 gnd pulse(0 5 0.1m 0.1m 0.1m 17 38)
v7  i6 gnd pulse(0 5 0.1m 0.1m 0.1m 19 38)
v8  i7 gnd pulse(0 5 0.1m 0.1m 0.1m 6 36)
* u1  i0 plot_v1
* u2  i1 plot_v1
* u3  i2 plot_v1
* u4  i3 plot_v1
* u5  i4 plot_v1
* u6  i5 plot_v1
* u7  i6 plot_v1
* u8  i7 plot_v1
* u12  q0 plot_v1
* u13  q1 plot_v1
* u14  q2 plot_v1
a1 [net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ ] [net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ ] u9
a2 [i0 i1 i2 i3 i4 i5 i6 i7 ] [net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ ] u10
a3 [net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ ] [q2 q1 q0 ] u11
* Schematic Name:                             prioenc, NgSpice Name: prioenc
.model u9 prioenc(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u11 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 100e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(i0)
plot v(i1)
plot v(i2)
plot v(i3)
plot v(i4)
plot v(i5)
plot v(i6)
plot v(i7)
plot v(q0)
plot v(q1)
plot v(q2)
.endc
.end
